US06668527B2
A. 2-Allyloxycarbonylamino-3-{3-[1-(3,5-dichloro-benzenesulfonyl)-pyrrolidin-2-yl]-isoxazol-5yl}-propionic acid
A tetrahydrofuran (1.0 mL) and methanol (0.5 mL) solution of 2-allyloxycarbonylamino-3-{3-[1-(3,5-dichloro-benzenesulfonyl)-pyrrolidin-2-yl]-isoxazol-5-yl}-propionic acid ethyl ester (59 mg, 0.108 mmol) was stirred with 2M aqueous lithium hydroxide (0.5 mL) at room temperature for 40 minutes. The reaction was acidified to pH 1 with 1 M hydrochloric acid and extracted twice with ethyl acetate. The combined extracts were dried over magnesium sulfate and concentrated in vacuo to give the title compound as a white solid (51 mg, 91%). MS (CI) m/z 518 (M+1).

reactant | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
reactant | 2-allyloxycarbonylamino-3-{3-[1-(3,5-dichloro-benzenesulfonyl)-pyrrolidin-2-yl]-isoxazol-5-yl}-propionic acid ethyl ester | 0.108 mmol, 59 mg | C(C)OC(C(CC1=CC(=NO1)C1N(CCC1)S(=O)(=O)C1=CC(=CC(=C1)Cl)Cl)NC(=O)OCC=C)=O | C22H25Cl2N3O7S
reactant | lithium hydroxide | 2M, 0.5 mL | [OH-].[Li+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | methanol | 0.5 mL | CO | CH4O
product | 2-Allyloxycarbonylamino-3-{3-[1-(3,5-dichloro-benzenesulfonyl)-pyrrolidin-2-yl]-isoxazol-5yl}-propionic acid | 51 mg, 91% | C(C=C)OC(=O)NC(C(=O)O)CC1=CC(=NO1)C1N(CCC1)S(=O)(=O)C1=CC(=CC(=C1)Cl)Cl | C20H21Cl2N3O7S
